US07125896B2
c) 4-[(Thiazol-4-yl)methoxy]phenyl acetone
Prepared from 4-chloromethylthiazole and 4-hydroxyphenylacetone by the method of Example 1.

reactant | 4-chloromethylthiazole | ClCC=1N=CSC1 | C4H4ClNS
reactant | 4-hydroxyphenylacetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | 4-[(Thiazol-4-yl)methoxy]phenyl acetone | S1C=NC(=C1)COC1=CC=C(C=C1)CC(C)=O | C13H13NO2S
